US06930187B2
To a stirred suspension of epothilone F (2.5 g, 4.77 mmol, 86.2% potency) in tetrahydrofuran (25 ml) was added diphenylphosphoryl azide (1.14 ml, 1.45 g, 5.25 mmol, 1.1 equivalents) at room temperature. The mixture was stirred for approximately 5 min. 1,8-diazabicyclo[5.4.0]undec-7-ene (0.86 ml, 0.87 g, 5.73 mmol, 1.2 equivalents) was then added over 10 min. The mixture was stirred for 10 min. and then allowed to warm to 35° C. and stirred for 6.5 hours. The mixture was cooled to 10° C., and a mixture of aqueous solution of NH4Br (2M, 5 ml) and NH4OH (2M, 5 ml) was added. After the mixture was stirred for 5 min, trimethylphosphine (1M in tetrahydrofuran, 5.01 ml, 5.01 mmol, 1.05 equivalents) was added over 10 min at 10° C. The mixture was allowed to stir at 35° C. for 4 hours and then cooled to room temperature. EtOAc (80 ml) and aqueous NH4OH (1 M, 10 ml) were added. The organic layer was washed with aqueous NH4OH (1 M, 20 ml). The combined aqueous layers were extracted with EtOAc (20 ml). The combined organic layers were washed with H2O (20 ml) and dried over MgSO4. The solvents were removed on a rotary evaporator, and the residue dried in vacuo to provide the crude 21-amino epothilone B (2.5 g) as an off-white solid. The crude 21-amino epothilone B (2.45 g) was crystallized from EtOAc/heptane to give 21-amino epothilone B (1.95 g, 90% yield corrected for input potency) as a white solid.

reactant | epothilone F | 4.77 mmol, 2.5 g | C[C@H]1CCC[C@@]2([C@@H](O2)C[C@H](OC(=O)C[C@@H](C(C(=O)[C@@H]([C@H]1O)C)(C)C)O)/C(=C/C3=CSC(=N3)CO)/C)C | C27H41NO7S
reactant | diphenylphosphoryl azide | 5.25 mmol, 1.14 ml, 1.45 g, 1.1 equivalents | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.73 mmol, 0.86 ml, 0.87 g, 1.2 equivalents | N12CCCCCC2=NCCC1 | C9H16N2
reactant | NH4Br | 2M, 5 ml | [NH4+].[Br-]
reactant | NH4OH | 2M, 5 ml | [NH4+].[OH-]
reactant | trimethylphosphine | 5.01 mmol, 1M, 5.01 ml, 1.05 equivalents | CP(C)C | C3H9P
reactant | NH4OH | 1 M, 10 ml | [NH4+].[OH-]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | EtOAc | 80 ml | CCOC(=O)C | C4H8O2
product | 21-amino epothilone B | 2.5 g | C[C@H]1CCC[C@@]2([C@@H](O2)C[C@H](OC(=O)C[C@@H](C(C(=O)[C@@H]([C@H]1O)C)(C)C)O)/C(=C/C3=CSC(=N3)CN)/C)C | C27H42N2O6S
